US05212187
N-cyano-N'-[6-[N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]hexyl]-N"-[3-[3-(piperidinomethyl)phenoxy]propyl]guanidine
Preparation is effected analogously to Example 1, using 0.56 g (1.52 mmol) of N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,6-hexanediamine and the equimolar amount of N-cyano-O-phenyl-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]isourea as starting materials. Working up by chromatography analogously to Example 1 yields the purified title compound in the form of a viscous oil; MS (+FAB method): m/z (rel. int. [%])=669 ([M+H]+, 5), 121 (100); IR (KBr): 2163 cm-1 (C≡N). For analytical purposes a sample is converted into the tartaric acid salt in an ether/ethanol solvent mixture; m.p.: 79° C. (ether/ethanol).

reactant | N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,6-hexanediamine | 1.52 mmol, 0.56 g | COC1=CC=C(CN(C2=NC=CC=C2)CCN(CCCCCCN)C)C=C1 | C22H34N4O
reactant | N-cyano-O-phenyl-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]isourea | C(#N)NC(OC1=CC=CC=C1)=NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C23H28N4O2
product | N-cyano-N'-[6-[N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]hexyl]-N"-[3-[3-(piperidinomethyl)phenoxy]propyl]guanidine | C(#N)NC(=NCCCOC1=CC(=CC=C1)CN1CCCCC1)NCCCCCCN(C)CCN(C1=NC=CC=C1)CC1=CC=C(C=C1)OC | C39H56N8O2
